US07625891B2
step 1—To a solution of R-(−)-epichlorohydrin (7 mL, 89.27 mmol) and DCE (280 mL) was added 2-chloroethanol (6.3 mL, 93.74 mmol) followed by a solution of BF3 Et2O (1.1 mL, 8.927 mmol) and DCE (20 mL). The pale yellow solution was stirred at 45° C. for 2 h. The reaction mixture was allowed to cool to RT, evaporated and dried in vacuo overnight (yield>95%) to afford 1-chloro-3-(2-chloro-ethoxy)-propan-2-ol.

reactant | R-(−)-epichlorohydrin | 89.27 mmol, 7 mL | C1[C@@H](O1)CCl | C3H5ClO
reactant | 2-chloroethanol | 93.74 mmol, 6.3 mL | ClCCO | C2H5ClO
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 280 mL | ClCCCl | C2H4Cl2
product | 1-chloro-3-(2-chloro-ethoxy)-propan-2-ol | yield>95% | ClCC(COCCCl)O | C5H10Cl2O2
